US04873255
6-Acetoxy-7-chloro-2-methyl-2-(4-nitrophenoxymethyl)-4-oxochroman
A procedure similar to that described in Preparation 17 was repeated, except that 550 mg of 7-chloro-6-hydroxy-2-methyl-2-(4-nitrophenoxymethyl)-4-oxochroman (prepared as described in Preparation 34), 1 ml of acetic anhydride and 10 ml of pyridine were reacted, to afford 580 mg of the title compound as a pale yellow glassy substance.

reactant | 7-chloro-6-hydroxy-2-methyl-2-(4-nitrophenoxymethyl)-4-oxochroman | 550 mg | ClC1=C(C=C2C(CC(OC2=C1)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O)O | C17H14ClNO6
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 6-Acetoxy-7-chloro-2-methyl-2-(4-nitrophenoxymethyl)-4-oxochroman | 580 mg | C(C)(=O)OC=1C=C2C(CC(OC2=CC1Cl)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C19H16ClNO7
